US07678820B2
To a solution of 60% NaH (12.38 g) in DMF (480 ml) was added a solution of 1H-indole-4-carbonitrile (40.0 g) in DMF (80 ml) at 0° C. After stirring at 0° C. for 30 min, it was stirred at room temperature for 0.5 hour. Thereafter, a solution of 2-bromoacetamide (40.76 g) in DMF (80 ml) was added dropwise thereto at 0° C. The solution was warmed from 0° C. to room temperature, and stirred for 12 hours. To the reaction solution was added water (1200 ml), and the precipitated white solid was collected by filtration. The solution was washed with hot water (300 ml) and diisopropyl ether (200 ml) to obtain 2-(4-cyano-1H-indol-1-yl)acetamide (52.1 g) as a white solid.

reactant | NaH | 12.38 g | [H-].[Na+]
reactant | 1H-indole-4-carbonitrile | 40.0 g | N1C=CC=2C(=CC=CC12)C#N | C9H6N2
reactant | 2-bromoacetamide | 40.76 g | BrCC(=O)N | C2H4BrNO
reactant | water | 1200 ml | O | H2O
solvent | DMF | 480 ml | CN(C)C=O | C3H7NO
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 2-(4-cyano-1H-indol-1-yl)acetamide | 52.1 g | C(#N)C1=C2C=CN(C2=CC=C1)CC(=O)N | C11H9N3O
